US07550598B2
(Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)thiophene-2-carboxamide
The title compound was synthesized using (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one and 2-thiophene carbonyl chloride in THF according to the procedure described in the synthesis of Example 26. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.69 (t, J=7.33 Hz, 3H) 1.28-1.37 (m, 2H) 2.26 (t, J=7.20 Hz, 2H) 6.80 (s, 1H) 7.27 (t, J=4.29 Hz, 1H) 7.63 (t, J=7.58 Hz, 1H) 7.75 (d, J=8.34 Hz, 2H) 7.86 (t, J=7.58 Hz, 1H) 7.92 (d, J=5.05 Hz, 2H) 8.05 (d, J=8.59 Hz, 2H) 8.08 (d, J=3.79 Hz, 1H) 8.15 (d, J=8.08 Hz, 1H) 10.56 (s, 1H); ESI-MS: m/z calc'd for C26H22N4O2S2 486.61. found 487.2 (M+H)+.

reactant | (Z)-4-(4-(4-aminophenylthio)quinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | NC1=CC=C(C=C1)SC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C21H20N4OS
reactant | 2-thiophene carbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
solvent | THF | C1CCOC1 | C4H8O
product | (Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)thiophene-2-carboxamide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(=O)C=1SC=CC1 | C26H22N4O2S2
